US09193717B2
Step A: N-(4-amino-3-nitrophenyl)methanesulfonamide
Methanesulfonyl chloride (11.5 g, 0.1 mmol) was added gradually over 3 min to a solution of 2-nitrobenzene-1,4-diamine (15.3 g) in pyridine (70 ml). The temperature of the mixture rose to ca. 70° C. The solution was set aside for 10 min, and then refluxed for 15 min. The pyridine was evaporated under reduced pressure, and the residue was recrystallized from ethanol (with charcoal) to give the product as white solid.

reactant | Methanesulfonyl chloride | 0.1 mmol, 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-nitrobenzene-1,4-diamine | 15.3 g | [N+](=O)([O-])C1=C(C=CC(=C1)N)N | C6H7N3O2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-amino-3-nitrophenyl)methanesulfonamide | NC1=C(C=C(C=C1)NS(=O)(=O)C)[N+](=O)[O-] | C7H9N3O4S
